US06320050B1
A solution of triphenylphosphine (344 mg, 1.31 mmol) in methylene chloride (10 mL) cooled to 0° C. was treated with N-bromosuccinimide (263 mg, 1.48 mmol). The reaction solution was stirred at 0° C. for 5 min. At this time, 3-cyclopentyl-2-(R)-(3,4-dichloro-phenyl)propionic acid (250 mg, 0.87 mmol) was added. The reaction was allowed to slowly warm to 25° C. over 45 min. At this time, 5-chloro-2-aminopyridine (145 mg, 1.13 mmol) and pyridine (0.11 mL, 1.31 mmol) were added to the reaction mixture. The reaction was stirred at 25° C. for 20 h. At this time, the reaction was diluted with water (10 mL) and extracted with methylene chloride (3×10 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 90/10 hexanes/ethyl acetate) afforded N-(5-chloro-pyridin-2-yl)3-cyclopentyl-2-(R)-(3,4-dichloro-phenyl)-propionamide (289 mg, 84%) as a white solid: mp 125-128° C.; [α]23589=−65.6° (c=0.16, chloroform); EI-HRMS m/e calcd for C19H19Cl3N2O (M+) 396.0563, found 396.0565.

reactant | triphenylphosphine | 1.31 mmol, 344 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.48 mmol, 263 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2-(R)-(3,4-dichloro-phenyl)propionic acid | 0.87 mmol, 250 mg | C1(CCCC1)C[C@@H](C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H16Cl2O2
reactant | 5-chloro-2-aminopyridine | 1.13 mmol, 145 mg | ClC=1C=CC(=NC1)N | C5H5ClN2
reactant | pyridine | 1.31 mmol, 0.11 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | N-(5-chloro-pyridin-2-yl)3-cyclopentyl-2-(R)-(3,4-dichloro-phenyl)-propionamide | 289 mg, 84% | ClC=1C=CC(=NC1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)Cl)Cl)=O | C19H19Cl3N2O
